US07129238B2
(RS)-Methoxy-(4-trifluoromethoxy-phenyl)-acetic acid was coupled with 4-aminomethyl benzonitrile according to general procedure B to give (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(4-trifluoromethoxy-phenyl)-acetamide. Light blue semisolid. MS 365.2 ([M+H]+)

reactant | (RS)-Methoxy-(4-trifluoromethoxy-phenyl)-acetic acid | COC(C(=O)O)C1=CC=C(C=C1)OC(F)(F)F | C10H9F3O4
reactant | 4-aminomethyl benzonitrile | NCC1=CC=C(C#N)C=C1 | C8H8N2
product | (RS)-N-(4-cyano-benzyl)-2-methoxy-2-(4-trifluoromethoxy-phenyl)-acetamide | C(#N)C1=CC=C(CNC(C(C2=CC=C(C=C2)OC(F)(F)F)OC)=O)C=C1 | C18H15F3N2O3
